US08278442B2
Preparation 89: C-(4-Chloroquinolin-8-yl)methylamine
To 4-chloroquinoline-8-carbonitrile (Preparation 88) (422 mg 2.24 mmol) in toluene (20 mL) at −78° C. was added dropwise DIBAL-H (6.73 mL/1M solution in toluene, 6.73 mmol). After 20 min at −78° C. the mixture was allowed to warm to −40° C. The reaction mixture was then re-cooled to −78° C. and DIBAL-H (2.0 mL/1M solution in toluene, 2.0 mmol) was added. After 1 h water (1 mL), MeOH (5 mL) and then NH4Cl(aq) (10 mL) were added. After addition of EtOAc (20 mL) the mixture was stirred vigorously for 14 h at rt. The mixture was extracted with EtOAc (3×20 mL) and the combined organic phase washed with brine (20 mL) and dried (MgSO4). Solvent removed in vacuo to give the title compound: RT=2.10 min; m/z (ES+)=193.0 [M+H]+.

reactant | 4-chloroquinoline-8-carbonitrile | 2.24 mmol, 422 mg | ClC1=CC=NC2=C(C=CC=C12)C#N | C10H5ClN2
reactant | DIBAL-H | 6.73 mmol, 1M, 6.73 mL | CC(C)C[AlH]CC(C)C
reactant | DIBAL-H | 2.0 mmol, 1M, 2.0 mL | CC(C)C[AlH]CC(C)C
reactant | water | 1 mL | O | H2O
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 5 mL | CO | CH4O
product | C-(4-Chloroquinolin-8-yl)methylamine | ClC1=CC=NC2=C(C=CC=C12)CN | C10H9ClN2
